US06455528B1
Synthesis of N-(1-(4-(1-(4-(Pyridin-2-yl)piperazin-1-yl)ethyl)phenyl)-1-methylethyl)acetamide 1/4 Ethanol
By similar reaction and treatment to that in Example 1(5) using 1-(2-pyridyl)piperazine instead of phenylpiperazine and N-(1-(4-(1-chloroethyl)phenyl)-1-methylethyl)acetamide instead of N-(4-chloromethylphenylmethyl) acetamide, the title compound was obtained as white crystals.

reactant | 1-(2-pyridyl)piperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | N-(1-(4-(1-chloroethyl)phenyl)-1-methylethyl)acetamide | ClC(C)C1=CC=C(C=C1)C(C)(C)NC(C)=O | C13H18ClNO
product | N-(1-(4-(1-(4-(Pyridin-2-yl)piperazin-1-yl)ethyl)phenyl)-1-methylethyl)acetamide | N1=C(C=CC=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)C(C)(C)NC(C)=O | C22H30N4O
